US04166120
A stirred suspension of 5.2 g of 2,3-dihydro-5-nitrospiro[benzofuran-2,4'-piperidine] free base of C, 7.0 g of potassium carbonate, a few grains of potassium iodide and 6.2 g of γ-chloro-p-fluorobutyrophenone ethylene ketal in 200 ml of n-butyl alcohol is refluxed for 24 hours. Thereafter, the reaction mixture is permitted to cool to ambient temperature and then filtered. The filtrate is evaporated to dryness, leaving a brown oil. The oil is dissolved in 200 ml of methyl alcohol and 100 ml of 3N hydrochloric acid and this solution is stirred at ambient temperature for 18 hours and then basified with 6 N sodium hydroxide. The alkaline mixture is extracted with ethyl acetate and the ethyl acetate extracts are successively dried and evaporated to dryness, leaving an oil. The oil is chromatographed on a silica gel column eluting with chloroform which leads to a solid. The solid is dissolved in ether where it is converted to its hydrochloric acid salt, a white precipitate. The precipitate is recrystallized twice from ethyl alcohol to give the product 2,3-dihydro-1'-[3-(4-fluorobenzoyl)propyl]-5-nitrospiro[benzofuran-2,4'-piperidine]hydrochloride, mp 245°-247° C.

reactant | 2,3-dihydro-5-nitrospiro[benzofuran-2,4'-piperidine] | 5.2 g | [N+](=O)([O-])C=1C=CC2=C(CC3(CCNCC3)O2)C1 | C12H14N2O3
reactant | potassium carbonate | 7.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
reactant | γ-chloro-p-fluorobutyrophenone ethylene ketal | 6.2 g | C1COC(CCCCl)(C2=CC=C(C=C2)F)O1 | C12H14ClFO2
reactant | hydrochloric acid | 3N, 100 ml | Cl | ClH
reactant | sodium hydroxide | 6 N | [OH-].[Na+]
solvent | n-butyl alcohol | 200 ml | C(CCC)O | C4H10O
solvent | methyl alcohol | 200 ml | CO | CH4O
product | 2,3-dihydro-1'-[3-(4-fluorobenzoyl)propyl]-5-nitrospiro[benzofuran-2,4'-piperidine]hydrochloride | Cl.FC1=CC=C(C(=O)CCCN2CCC3(CC2)OC2=C(C3)C=C(C=C2)[N+](=O)[O-])C=C1 | InChI=1S/C22H23FN2O4.ClH/c23-18-5-3-16(4-6-18)20(26)2-1-11-24-12-9-22(10-13-24)15-17-14-19(25(27)28)7-8-21(17)29-22;/h3-8,14H,1-2,9-13,15H2;1H
